US07189716B2
N5-(4-Iodo-2-methoxy-pyridin-3-ylmethylene)-6-methyl-2-morpholin-4-yl-pyrimidine-4,5-diamine:
To 4-amino-6-methyl-2-morpholin-4-yl-5nitropyrimidine (500 mg, 2.09 mmol) and 10% palladium on carbon (100 mg) were added methanol (10 mL) under nitrogen. The reaction mixture was stirred under hydrogen atmosphere (hydrogen balloon) for 22 hours. The solution was filtered through a pad of celite and the filtercake was washed with a small amount of MeOH. The product in MeOH was used for the next step without purification; LCMS (+ESI, M+H+) m/z 210; HPLC: 97% (220 nm). To the crude diamino in MeOH (50 mL) was added a solution of 4-iodo-2-methoxy-pyridine-3-carbaldehyde (604 mg, 2.30 mmol) in MeOH (10 mL) at 0° C. and stirred for 0.5 hour. The resulting mixture was allowed to warm to ambient temperature and stirred for 6 days in an open system exposed to air. The reaction mixture was cooled to 0° C. to afford a crystalline yellow solid, which was collected by filtration to give the title compound (830 mg, 87%): 1H NMR (400 MHz, DMSO) δ 8.43 (s, 1H), 7.85 and 7.62 (d, J=5.3, 1H), 6.23 (br s, 2H), 3.91 (s, 3H), 3.61 (s, 8H), 2.26 (s, 3H); LCMS (+ESI, M+H+) m/z 455.

reactant | 4-amino-6-methyl-2-morpholin-4-yl-5nitropyrimidine | 2.09 mmol, 500 mg | NC1=NC(=NC(=C1[N+](=O)[O-])C)N1CCOCC1 | C9H13N5O3
reactant | hydrogen | [H][H] | H2
reactant | 4-iodo-2-methoxy-pyridine-3-carbaldehyde | 2.30 mmol, 604 mg | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | MeOH | 50 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | N5-(4-Iodo-2-methoxy-pyridin-3-ylmethylene)-6-methyl-2-morpholin-4-yl-pyrimidine-4,5-diamine | 830 mg, 87% | IC1=C(C(=NC=C1)OC)C=NC=1C(=NC(=NC1C)N1CCOCC1)N | C16H19IN6O2
